US04117225
Reacting 5-diphenylmethyl-3,7-diketo-1,2-dihydro-1,2,5-triazepine with 6-methylpyridine-2-carboxaldehyde in the presence of benzene at reflux temperature and a reaction time of 4 hours to afford 1-diphenylmethyl-4-(6-methyl-2-pyridylmethyleneamino)-3,5-diketopiperazine;

reactant | 5-diphenylmethyl-3,7-diketo-1,2-dihydro-1,2,5-triazepine | C1(=CC=CC=C1)C(N1CC(NNC(C1)=O)=O)C1=CC=CC=C1 | C17H17N3O2
reactant | 6-methylpyridine-2-carboxaldehyde | CC1=CC=CC(=N1)C=O | C7H7NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-diphenylmethyl-4-(6-methyl-2-pyridylmethyleneamino)-3,5-diketopiperazine | C1(=CC=CC=C1)C(N1CC(N(C(C1)=O)N=CC1=NC(=CC=C1)C)=O)C1=CC=CC=C1 | C24H22N4O2
